US07569572B2
Step 1. Preparation of 1-(2-(2,2,2-trifluoroethoxy)ethyl)-3-((2,2,2-trifluoroethylamino)methyl)-5-chloro-N-(pyrimidin-4-yl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine
5-Chloro-3-(chloromethyl)-N-pyrimidin-4-yl-1-[2-(2,2,2-trifluoroethoxy)ethyl]-1H-pyrazolo[4,3-d]pyrimidin-7-amine (610 mg, 1.5 mmol), trifluoroethylamine hydrochloride (390 mg, 2.9 mmol) and N,N-diisopropylethylamine (410 mg, 3.2 mmol) along with tetraethylammonium bromide (1 mg) and tetraethylammonium iodide were mixed in dimethyl sulfoxide (10 ml) in a reaction vial. The reaction mixture was stirred for two days at room temperature and a second quantity of trifluoroethylamine hydrochloride (390 mg, 2.9 mmol) and N,N-diisopropyl-ethylamine (410 mg, 3.2 mmol) were added and the reaction allowed to proceed for another two days. The reaction mixture was partitioned between ethyl acetate (70 mLs) and water (2×25 mLs) and the organic layer dried (Na2SO4) and concentrated to an oil that solidified on standing. This intermediate was used without further purification. MS ES+ [MH]+m/z (relative intensity): 485.1 (100), 486.1 (10), 487.1 (20).

reactant | 5-Chloro-3-(chloromethyl)-N-pyrimidin-4-yl-1-[2-(2,2,2-trifluoroethoxy)ethyl]-1H-pyrazolo[4,3-d]pyrimidin-7-amine | 1.5 mmol, 610 mg | ClC=1N=C(C2=C(N1)C(=NN2CCOCC(F)(F)F)CCl)NC2=NC=NC=C2 | C14H12Cl2F3N7O
reactant | trifluoroethylamine hydrochloride | 2.9 mmol, 390 mg | Cl.FC(CN)(F)F
reactant | N,N-diisopropylethylamine | 3.2 mmol, 410 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroethylamine hydrochloride | 2.9 mmol, 390 mg | Cl.FC(CN)(F)F
reactant | N,N-diisopropyl-ethylamine | 3.2 mmol, 410 mg | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | tetraethylammonium bromide | 1 mg | [Br-].C(C)[N+](CC)(CC)CC
catalyst | tetraethylammonium iodide | [I-].C(C)[N+](CC)(CC)CC
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-(2-(2,2,2-trifluoroethoxy)ethyl)-3-((2,2,2-trifluoroethylamino)methyl)-5-chloro-N-(pyrimidin-4-yl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine | FC(COCCN1N=C(C=2N=C(N=C(C21)NC2=NC=NC=C2)Cl)CNCC(F)(F)F)(F)F | C16H15ClF6N8O
